US07618978B2
4-Benzyl-2-(R)-[(2-(R)-dibenzylamino-1-(S)-hydroxy-3-phenylpropyl)]-piperazine-1-carboxylic acid-tert-butyl ester
Dissolve commercially available tert-butyl 4-benzyl-1-piperazinecarboxylate (2.9 g, 10.4 mmol) in diethyl ether (75 mL) under argon and cool to −78° C. Add tetramethylethylene diamine (1. 8 mL, 11.7 mmol) and sec-butyllithium (9 mL, 11.7 mmol) dropwise at −78° C. React for 1.5 h and add 2-(S)-dibenzylamino-3-phenylpropionaldehyde (2.6 g, 7.9 mmol) in diethyl ether (18 mL) dropwise over 10 min. Stir for 45 min. Add saturated aqueous ammonium chloride solution and ethyl acetate and let warm to room temperature, separate the layers, extract the aqueous layer with ethyl acetate, wash the organic layer with saturated aqueous sodium chloride solution, dry (magnesium sulfate), concentrate and purify (silica gel chromatography, eluting with 4:1 hexanes:ethyl acetate) to give the title compound (the first spot to elute) as a white solid (1.45 g, 30%) and a second diastereomer (the second spot to elute) as a white solid (1.1 g, 23%).

reactant | tert-butyl 4-benzyl-1-piperazinecarboxylate | 10.4 mmol, 2.9 g | C(C1=CC=CC=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C16H24N2O2
reactant | tetramethylethylene diamine | 11.7 mmol, 8 mL | CN(CCN(C)C)C | C6H16N2
reactant | sec-butyllithium | 11.7 mmol, 9 mL | C(C)(CC)[Li]
reactant | 2-(S)-dibenzylamino-3-phenylpropionaldehyde | 7.9 mmol, 2.6 g | C(C1=CC=CC=C1)N([C@H](C=O)CC1=CC=CC=C1)CC1=CC=CC=C1 | C23H23NO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | diethyl ether | 75 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 18 mL | C(C)OCC | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-Benzyl-2-(R)-[(2-(R)-dibenzylamino-1-(S)-hydroxy-3-phenylpropyl)]-piperazine-1-carboxylic acid-tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@H](CN(CC1)CC1=CC=CC=C1)[C@H]([C@@H](CC1=CC=CC=C1)N(CC1=CC=CC=C1)CC1=CC=CC=C1)O | C39H47N3O3
